US06252084B1
2-Cyclopropyl-5-hydroxy-1-(phenylmethyl)-1H-indole-3-acetamide (295 mg. 0.9 mmol) was dissolved in 10 mL of THF and 40 mL of DMF and 45 mg (1.1 mmol) of 60% NaH/mineral oil added. After 0.17 hours, 250 mg (1.1 mmol) of (3-bromopropyl)phosphonic acid dimethyl ester was added and stirring maintained for 6.5 hours. The mixture was diluted with water and ethyl acetate, the organic layer separated, washed with water, brine and dried (Na2SO4). The solution was evaporated at reduced pressure and the residue chromatographed on silica gel eluting with a gradient, 1% MeOH/methylene chloride→5% MeOH/methylene chloride, to give 280 mg (71% yield) of [3-[[3-(2-amino-2-oxoethyl)-2-cyclopropyl-1-(phenylmethyl)-1H-indol-5-yl]oxy]propyl]phosphonic acid dimethyl ester.

reactant | 2-Cyclopropyl-5-hydroxy-1-(phenylmethyl)-1H-indole-3-acetamide | 0.9 mmol, 295 mg | C1(CC1)C=1N(C2=CC=C(C=C2C1CC(=O)N)O)CC1=CC=CC=C1 | C20H20N2O2
reactant | DMF | 40 mL | CN(C)C=O | C3H7NO
reactant | NaH | 1.1 mmol, 45 mg | [H-].[Na+]
reactant | (3-bromopropyl)phosphonic acid dimethyl ester | 1.1 mmol, 250 mg | COP(OC)(=O)CCCBr | C5H12BrO3P
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [3-[[3-(2-amino-2-oxoethyl)-2-cyclopropyl-1-(phenylmethyl)-1H-indol-5-yl]oxy]propyl]phosphonic acid dimethyl ester | 280 mg, 71% yield | COP(OC)(=O)CCCOC=1C=C2C(=C(N(C2=CC1)CC1=CC=CC=C1)C1CC1)CC(=O)N | C25H31N2O5P
